US09029544B2
(12) (S)-3′-((R)-(4-tert-butylphenyl)(hydroxy)methyl)-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinolin]-5′-ol
Obtained by starting from (S)-5′-hydroxy-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde and 4-tert.-butylphenylmagnesium bromide.

reactant | (S)-5′-hydroxy-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde | O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C(C)C)C=O)I | C16H20INO2
reactant | 4-tert.-butylphenylmagnesium bromide | C(C)(C)(C)C1=CC=C(C=C1)[Mg]Br
product | (S)-3′-((R)-(4-tert-butylphenyl)(hydroxy)methyl)-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinolin]-5′-ol | C(C)(C)(C)C1=CC=C(C=C1)[C@H](C=1C(=NC=2CC3(C[C@@H](C2C1I)O)CCC3)C(C)C)O | C26H34INO2
